US05242925
Analogously to Example 7, reaction of 6-[4-(4-(5-aminobenzimidazol-1-yl)butyl)piperazino]-1,4-benzodioxane ("E") with acetyl chloride gives 6-[4-(4-(5-acetamidobenzimidazol-1-yl)butyl)piperazino]-1,4-benzodioxane.

reactant | 6-[4-(4-(5-aminobenzimidazol-1-yl)butyl)piperazino]-1,4-benzodioxane | NC1=CC2=C(N(C=N2)CCCCN2CCN(CC2)C2=CC3=C(OCCO3)C=C2)C=C1 | C23H29N5O2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 6-[4-(4-(5-acetamidobenzimidazol-1-yl)butyl)piperazino]-1,4-benzodioxane | C(C)(=O)NC1=CC2=C(N(C=N2)CCCCN2CCN(CC2)C2=CC3=C(OCCO3)C=C2)C=C1 | C25H31N5O3
